* C:\users\lukas\Desktop\Link to work\git\LMWB\Peperoni-Ripieni\Simulations\LTSpice\AktiverTP.asc
XU1 0 N013 Vcc Vee outTS4 LT1001
V1 Vcc 0 12
V2 0 Vee 12
R61 N013 N012 4.7k
R51 N012 outTS2 4.7k
R41 N012 outTS4 4.7k
C41 N012 0 311n
C31 outTS4 N013 1n
V3 Vin N014 0.5 AC 1
R300 outTP1 N023 4.7k
C300 outTP1 0 17n
V4 N014 N015 SINE(0 0.637 1k 0 0 0 1000) AC 0
V5 N015 N016 SINE(0 0.212 3k 0 0 0 3000) AC 0
XU3 0 N005 Vcc Vee outBW2 LT1001
R3 N005 N004 100k
R2 N004 Vin 100k
R1 N004 outBW2 100k
C2 N004 0 1.3n
C1 outBW2 N005 490p
V6 NC_01 0 PULSE(0 1 0 1p 1p 2.5m 5m 100)
XU4 0 N007 Vcc Vee outBW4 LT1001
R6 N007 N006 100k
R5 N006 outBW2 100k
R4 N006 outBW4 100k
C4 N006 0 3.1n
C3 outBW4 N007 200p
XU2 0 N011 Vcc Vee outTS2 LT1001
R31 N011 N010 4.7k
R21 N010 Vin 4.7k
R11 N010 outTS2 4.7k
C21 N010 0 129n
C11 outTS2 N011 12n
XU5 0 N021 Vcc Vee outBL4 LT1001
R62 N021 N020 4.7k
R52 N020 outBL2 4.7k
R42 N020 outBL4 4.7k
C42 N020 0 20n
C32 outBL4 N021 3n
XU6 0 N019 Vcc Vee outBL2 LT1001
R32 N019 N018 4.7k
R22 N018 Vin 4.7k
R12 N018 outBL2 4.7k
C22 N018 0 15n
C12 outBL2 N019 6n
XU7 N003 N002 Vcc Vee N002 LT1001
R122 N003 N001 641k
R111 Vin N001 382k
C111 N003 0 22n
C122 N002 N001 47n
V7 N016 N017 SINE(0 0.127 5k 0 0 0 5000) AC 0
V8 N017 0 SINE(0 0.091 7k 0 0 0 7000) AC 0
R200 outTP2 N022 4.7k
C200 outTP2 0 17n
R100 N022 Vin 4.7k
C100 N022 0 17n
R222 N009 N008 5k5
R211 Vin N008 5k5
C211 N009 0 10n
C222 out-S-K N008 10n
XU9 NC_02 NC_03 Vcc 0 NC_04 AD8624
XU8 N009 out-S-K Vcc Vee out-S-K LT1001
* .ac dec 1000 1 1Meg
.tran 10m
* Tschebyscheff fg = 2000
* Butterworth fg=2000
* Butterworth fg=2000
* Tschebyscheff fg = 2000
* Bessel fg = 2000
* Bessel fg = 2000
* Multiple Feedback Filter
* Sallen-Key Filter (non inverting)\nfg=10Hz nach Datasheet MCP601
* Sallen-Key Filter (non inverting)\nnach Tietze-Schenk\nhier Bessel fg=2kHz (C1=22n, C2=47n, R1=1k4, R2=2k7)
* hier sogar mit single supply OPV
.lib AD8624.lib
.lib LTC.lib
.backanno
.end
